US06498165B1
2-[(S)-1-(3-(N-benzyl-N-methylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine (32.7 mg) was dissolved in CH2Cl2 (2 mL), triethylamine (63 μL) added followed by N-benzylmethylamine (35 μL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (53 mg) and 4-dimethylaminopyridine (˜1 mg). Mixture was stirred at room temperature for 17 h then the solvent removed under reduced pressure. The residue was eluted on silica gel chromatography (1-2% MeOH in CH2Cl2) to yield 28.3 mg of the title compound. Mass Spectrum (ESI): m/e 463.2 (M+1).

reactant | 2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 32.7 mg | C(=O)(O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H17N5O2
reactant | triethylamine | 63 μL | C(C)N(CC)CC | C6H15N
reactant | N-benzylmethylamine | 35 μL | C(C1=CC=CC=C1)CN | C8H11N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 53 mg | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | ˜1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[(S)-1-(3-(N-benzyl-N-methylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 28.3 mg | C(C1=CC=CC=C1)N(C(=O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2)C | C28H26N6O
